US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-2-yl-acetamide
prepared by reaction of 2-bromoacetyl bromide with 2-aminoindane hydrochloride and 1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine.

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-aminoindane hydrochloride | Cl.NC1CC2=CC=CC=C2C1
reactant | 1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine | COC=1C=C(CC2NCCCC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C21H27NO4
product | 2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-2-yl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)CC(=O)NC3CC2=CC=CC=C2C3)C=CC1OC | C32H38N2O5
